* C:\Users\b59mi\Documents\Business\4th Year Engineering\Semester 1\ECE490\Analog-Drum-Machine\Cowbell\Cowbell.asc
R1 N032 N031 33k
R2 0 N032 2.2k
R3 N033 pos 470k
R4 0 N035 100
Q1 N024 N033 N035 0 Q2N3904
C1 N033 N032 10µ
XD1 N025 N024 1n4148
C2 N019 N026 0.0022µ
R6 N019 0 2.2k
C3 N027 N019 .01µ
R7 N020 N027 470k
XU1 0 N027 pos neg N020 uA741
R10 N014 N013 33k
R11 0 N014 2.2k
R12 N015 pos 470k
R13 0 N017 100
Q2 N009 N015 N017 0 Q2N3904
C6 N015 N014 10µ
XD2 N010 N009 1n4148
R15 N025 N011 100k
R14 N011 N010 100k
R16 N018 N010 10k
C7 N019 N018 .0022µ
C8 N020 N019 .0033µ
R5 N026 N025 10k
R17 N012 N011 33k
C9 0 N012 1µ
C10 N011 0 .47µ
XD3 N007 N011 1n4148
R18 N004 N007 1k
R19 N002 N005 22k
R20 N001 N002 4.7k
Q4 N005 N006 0 0 Q2N3904
R21 N003 N006 22k
R22 N006 0 10k
V3 N003 0 PULSE(0 12 1 10u 10u 0.001 1 4)
V4 N001 0 12
V5 0 neg 12
V6 pos 0 12
Q3 N004 N002 N001 0 2N3906
Q5 N013 N022 0 0 2N3904
Q6 N016 N021 0 0 2N3904
R23 N008 N013 390
R24 N008 N016 390
R25 N008 N021 50k
R26 N008 N022 50k
C11 N022 N016 18n
C12 N013 N021 18n
V7 N008 0 5
Q7 N031 N038 0 0 2N3904
Q8 N036 N037 0 0 2N3904
R27 N030 N031 390
R28 N030 N036 390
R29 N030 N037 100k
R30 N030 N038 10kk
C13 N038 N036 27n
C14 N031 N037 27n
V8 N030 0 5
Q9 N023 N029 N034 0 2N3904
C4 N029 N028 2.2µ
R8 pos N029 10k
R9 N029 neg 10k
R31 pos N023 100
R32 N034 neg 2.4k
C5 0 N023 1µ
C15 Vout N034 2.2µ
R33 N028 N020 9k
R34 0 N028 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\b59mi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc Q2N3904.lib
* Special thanks to Kurt James Werner for making the original TR808\nCowbell circuit from the service manual easier to read!
.inc 1n4148.sub
.inc uA741.sub
.tran 0 5 0.5
.wave output.wav 16 44.1K Vout
* Trigger Logic
.inc 2N3906.lib
* Oscillator 2\nBandwidth: 403Hz-2000Hz\nAdjust R2 & R3 from 20k to 100k
* Oscillator 1\nBandwidth: 268Hz-1790Hz\nAdjust R2 & R3 from 15k-100k
.backanno
.end
